US04400505
Preparation of 2,2'-[Hexamethylenebis[(2,2,6,6-tetramethyl-4-piperidinyl)imino]]bis(4-diallylamino-6-t-octylamino-1,3,5-triazine)
A stirred solution of 4,4'(hexamethylenediimino)bis(2,2,6,6-tetramethylpiperidine) (9.5 grams; 0.024 mole), 2-diallylamino-4-chloro-6-t-octylamino-1,3,5-triazine (16.0 grams; 0.048 mole), and powdered sodium hydroxide (2.0 grams; 0.05 mole) in xylene (150 mls) is heated at reflux for 24 hours while removing by-product water by means of a trap. The resulting mixture is then filtered and the filtrate is heated to evaporate the solvent and obtain a light tan oil which solidifies on triturating with petroleum ether. The solid is then recovered and dried to obtain 4.6 grams of the desired product, mp 113-115° C.

reactant | 4,4'(hexamethylenediimino)bis(2,2,6,6-tetramethylpiperidine) | 0.024 mole, 9.5 grams | N(CCCCCCNC1CC(NC(C1)(C)C)(C)C)C1CC(NC(C1)(C)C)(C)C | C24H50N4
reactant | 2-diallylamino-4-chloro-6-t-octylamino-1,3,5-triazine | 0.048 mole, 16.0 grams | C(C=C)N(C1=NC(=NC(=N1)Cl)NC(C)(C)CC(C)(C)C)CC=C | C17H28ClN5
reactant | sodium hydroxide | 0.05 mole, 2.0 grams | [OH-].[Na+]
solvent | xylene | 150 mls | C=1(C(=CC=CC1)C)C | C8H10
product | 2,2'-[Hexamethylenebis[(2,2,6,6-tetramethyl-4-piperidinyl)imino]]bis(4-diallylamino-6-t-octylamino-1,3,5-triazine) | 4.6 grams | CC1(NC(CC(C1)N(CCCCCCN(C1CC(NC(C1)(C)C)(C)C)C1=NC(=NC(=N1)N(CC=C)CC=C)NC(C)(C)CC(C)(C)C)C1=NC(=NC(=N1)N(CC=C)CC=C)NC(C)(C)CC(C)(C)C)(C)C)C | C58H104N14
